US08802670B2
To a solution of 3-bromo-5-(4-methoxy-benzyloxy)-pyridine (300 mg) in THF (10 mL) was added triisopropyl borate (0.28 mL) and the mixture cooled to −78° C. Then n-butyllithium (0.49 mL of a 2.5 M solution in hexanes) was added maintaining the temperature below −65° C. The reaction mixture was then allowed to warm to −20° C. over 1 h and then quenched with 2 M aqueous hydrochloric acid (2 mL). The mixture was allowed to warm to room temperature over 1 h and then diluted with water (25 mL), the pH was adjusted to 7 and then extracted into ethyl acetate (3×25 mL). The combined organics were washed with brine (20 mL), dried (MgSO4) and reduced in vacuo. A mixture of the crude product and pinacol (236 mg) in toluene (15 mL) was then heated at reflux for 4 h. The mixture was then reduced in vacuo, dissolved in ethyl acetate (30 mL) and washed with water (2×30 mL) and brine (30 mL). The combined organics were dried (MgSO4) and reduced in vacuo to give 3-(4-methoxy-benzyloxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine as an off-white solid (162 mg).

reactant | 3-bromo-5-(4-methoxy-benzyloxy)-pyridine | 300 mg | BrC=1C=NC=C(C1)OCC1=CC=C(C=C1)OC | C13H12BrNO2
reactant | triisopropyl borate | 0.28 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-butyllithium | C(CCC)[Li]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(4-methoxy-benzyloxy)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyridine | 162 mg | COC1=CC=C(COC=2C=NC=C(C2)B2OC(C(O2)(C)C)(C)C)C=C1 | C19H24BNO4
